US08193199B2
Prepared according to Procedure H using (2-(2-chlorophenyl)-6-fluoroquinolin-3-yl)methanamine (0.080 g, 0.279 mmol), 6-chloropurine (0.065 g, 0.42 mmol, 1.5 eq) and DIEA (0.56 mmol, 2.0 eq) in n-butanol (3 mL). N-((2-(2-chlorophenyl)-6-fluoroquinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=1683 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.44 (s, 1 H), 8.14 (s, 1H), 8.07-8.11 (m, 2H), 7.66-7.71 (m, 1H), 7.59-7.66 (m, 1H), 7.49-7.55 (m, 2H), 7.40-7.46 (m, 1H), 7.34-7.40 (m, 1H), 4.05-4.17 (m, 2H), Mass Spectrum (ESI) m/e=405 (M+1).

reactant | (2-(2-chlorophenyl)-6-fluoroquinolin-3-yl)methanamine | 0.279 mmol, 0.080 g | ClC1=C(C=CC=C1)C1=NC2=CC=C(C=C2C=C1CN)F | C16H12ClFN2
reactant | 6-chloropurine | 0.42 mmol, 0.065 g, 1.5 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.56 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((2-(2-chlorophenyl)-6-fluoroquinolin-3-yl)methyl)-9H-purin-6-amine | ClC1=C(C=CC=C1)C1=NC2=CC=C(C=C2C=C1CNC1=C2N=CNC2=NC=N1)F | C21H14ClFN6
